US08455491B2
Step 1.1. Ethyl 4-[6-chloro-2-(4-fluorophenyl)-imidazo[1,2-b]pyridazin-3-yl]-4H-pyridazine-1-carboxylate
2.90 ml (30.3 mmol) of ethyl chloroformate are added, dropwise in 30 minutes, to a solution of 3.00 g (12.1 mmol) of 6-chloro-2-(4-fluorophenyl)imidazo[1,2-b]pyridazine (CAS: 244081-70-7) and 4.40 ml (60.6 mmol) of pyridazine in 40 ml of dichloromethane at 10° C. The medium is stirred at 10° C. for a further hour and then left to stir for 3 hours. It is then poured into ice-cold water and the product is extracted with ethyl acetate.

reactant | ethyl chloroformate | 30.3 mmol, 2.90 ml | ClC(=O)OCC | C3H5ClO2
reactant | 6-chloro-2-(4-fluorophenyl)imidazo[1,2-b]pyridazine | 12.1 mmol, 3.00 g | ClC=1C=CC=2N(N1)C=C(N2)C2=CC=C(C=C2)F | C12H7ClFN3
reactant | pyridazine | 60.6 mmol, 4.40 ml | N1=NC=CC=C1 | C4H4N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | Ethyl 4-[6-chloro-2-(4-fluorophenyl)-imidazo[1,2-b]pyridazin-3-yl]-4H-pyridazine-1-carboxylate | ClC=1C=CC=2N(N1)C(=C(N2)C2=CC=C(C=C2)F)C2C=NN(C=C2)C(=O)OCC | C19H15ClFN5O2
